US07781610B2
Synthesis of Butyldiphenyltin Iodide
In a three-necked flask protected from light, butyltriphenyltin (21.05 g; 51.8 mmol) was dissolved in 50 mL of dry methanol. A solution of iodine (12.06 g; 47.5 mmol) in methanol was then added slowly. After stirring at room temperature during 16 hours, methanol was eliminated under vacuum. The residue was dissolved in petroleum ether and washed with a saturated aqueous solution of sodium thiosulphate. Organic layers were washed with a saturated NaCI solution and dried over MgSO4. Solvent was evaporated and the crude product was distilled using a Kugelrohr apparatus at 60° C. A colourless oil was obtained (22.2 g, 48.6 mmol).

reactant | butyltriphenyltin | 51.8 mmol, 21.05 g | C(CCC)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | iodine | 47.5 mmol, 12.06 g | II | I2
solvent | methanol | 50 mL | CO | CH4O
product | Butyldiphenyltin Iodide | C(CCC)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)I | InChI=1S/2C6H5.C4H9.HI.Sn/c2*1-2-4-6-5-3-1;1-3-4-2;;/h2*1-5H;1,3-4H2,2H3;1H;/q;;;;+1/p-1
